US08685969B2
4-(3-(6-Chloro-1-oxoisoindolin-2-yl)-2-methylphenyl)-7-(2-morpholinoethoxy)-9H-pyrido[3,4-b]indole-1-carboxamide
A mixture of 4-(3-(6-chloro-1-oxoisoindolin-2-yl)-2-methylphenyl)-7-hydroxy-9H-pyrido[3,4-b]indole-1-carboxamide (50 mg, 0.104 mmol), 4-(2-chloroethyl)morpholine, HCl (67.4 mg, 0.362 mmol), and cesium carbonate (202 mg, 0.621 mmol) in DMF (6 mL) was heated at 100° C. for 3 hr. The mixture was diluted with ethyl acetate (100 mL) and filtered through CELITE®. The filtrate was washed with water (2×30 mL) and brine (30 mL), and dried over anhydrous MgSO4. After the solvent was removed under vacuum, the residue was purified by reverse phase HPLC. The correct fractions were concentrated under vacuum, basified with saturated NaHCO3 solution, and extracted with ethyl acetate (3×30 mL). The combined extract was washed with brine (30 mL) and dried over anhydrous MgSO4. Removal of solvent under vacuum provided the purified product (7.1 mg, 0.011 mmol, 10.9% yield) as a pale yellow sold. LCMS (M+H)+=596.29. 1H NMR (500 z, DMSO-d6) δ: 11.72 (s, 1H), 8.36 (s, 1H), 8.25 (s, 1H), 7.86 (s, 1H), 7.82-7.78 (m, 3H), 7.72 (d, J=6.9 Hz, 1H), 7.59 (m, 1H), 7.50 (m, 1H), 7.43 (s, 1H), 7.22 (br. S, 1H), 6.79 (br. S, 1H), 5.10 (d, J=17.6 Hz, 1H), 5.00 (d, J=17.6 Hz, 1H), 4.23 (m, 2H), 3.81-3.53 (m, 8H), 2.81 (m, 2H), 1.92 (s, 3H).

reactant | 4-(3-(6-chloro-1-oxoisoindolin-2-yl)-2-methylphenyl)-7-hydroxy-9H-pyrido[3,4-b]indole-1-carboxamide | 0.104 mmol, 50 mg | ClC1=CC=C2CN(C(C2=C1)=O)C=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)O)C(=O)N)C | C27H19ClN4O3
reactant | cesium carbonate | 0.621 mmol, 202 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 4-(3-(6-Chloro-1-oxoisoindolin-2-yl)-2-methylphenyl)-7-(2-morpholinoethoxy)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.011 mmol, 7.1 mg, 10.9% yield | ClC1=CC=C2CN(C(C2=C1)=O)C=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)OCCN2CCOCC2)C(=O)N)C | C33H30ClN5O4
